US04218370
D. Preparation of 4-t-Butylazo-4-cyanopentanol
To a 200 ml 3-neck bottom flask equipped with a magnetic stirrer, thermometer and addition funnel was added 10.3 grams (0.21 mole) of sodium cyanide and 80 mls of 75% aqueous methanol. The mixture was stirred at room temperature until the sodium cyanide dissolved. The solution was cooled to 10° C. and 49.7 grams (0.2 mole) of 4-t-butylazo-4-chloropentyl acetate was added dropwise over 20 minutes while holding the temperature at 10° to 15° C. with a cold water bath. After the addition was complete, the mixture was stirred an additional hour at room temperature before adding 13.2 grams (0.2 mole) of 85% potassium hydroxide. The resulting mixture was stirred an additional 1/2 hour at room temperature to complete the saponification of the acetate group. The reaction mixture was poured into 200 ml of water and the organic layer taken up in 100 ml pentane. The pentane solution was washed with water, 10% HCl, water and saturated sodium bicarbonate solution. The pentane solution was dried over anhydrous sodium sulfate, filtered and the pentane stripped off on a rotary evaporator under reduced pressure. The resulting light orange liquid weighed 11.0 grams (28% crude yield). The infrared spectrum of the product contained a sharp weak cyano band at 2200 cm-1 and a very strong broad hydroxyl peak at 3300 cm-1. The carbonyl band at 1730-1740 cm-1 and the carbon-oxygen band at 1230-1240 cm-1 were missing, indicating that the acetoxy group had been saponified.

reactant | sodium cyanide | 0.21 mole, 10.3 grams | [C-]#N.[Na+]
reactant | methanol | 80 mls | CO | CH4O
reactant | 4-t-butylazo-4-chloropentyl acetate | 0.2 mole, 49.7 grams | C(C)(=O)OCCCC(C)(Cl)N=NC(C)(C)C | C11H21ClN2O2
reactant | potassium hydroxide | 0.2 mole, 13.2 grams | [OH-].[K+]
reactant | pentane | 100 ml | CCCCC | C5H12
solvent | water | 200 ml | O | H2O
product | 4-t-Butylazo-4-cyanopentanol | C(C)(C)(C)N=NC(CCCO)(C)C#N | C10H19N3O
